US20010019995A1
1-Bromodec-4-yne was prepared from 1-chlorodec-4-yne. The 1-chlorodec-4-yne (10.6 g, 61 mmol) and 25 g of lithium bromide were refluxed in 80 ml of THF for 21 hours. The conversion was 74%. Ether was added, the reaction mixture was washed with water (2×) and brine, dried over magnesium sulfate and stripped. The product was dissolved in 70 ml of THF and refluxed for 8 hours with an additional 25 g of lithium bromide. This gave 95% conversion of the chloride to the bromide. The same workup provided 11.36 g of 1-bromodec-4-yne.

reactant | 1-chlorodec-4-yne | ClCCCC#CCCCCC | C10H17Cl
reactant | 1-chlorodec-4-yne | 61 mmol, 10.6 g | ClCCCC#CCCCCC | C10H17Cl
reactant | lithium bromide | 25 g | [Br-].[Li+]
reactant | Ether | CCOCC | C4H10O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-bromodec-4-yne | 11.36 g | BrCCCC#CCCCCC | C10H17Br
